data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
915,989,[CH3:15][CH:16]=[NH+:17][C-:18]([CH3:19])[C:20](=[O:21])[NH:22][CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:18]([CH3:19])([C:20](=[O:21])[NH:22][CH3:23])[NH:17][CH:16]2[CH3:15],water,298.15,10.168470445945903,-14.541818952115412
1779,1970,[CH3:18][O:19][C:20](=[O:21])[C:22]#[N+:23][C-:24]([CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:22]([C:20]([O:19][CH3:18])=[O:21])=[N:23][C:24]2([CH3:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,12.027231379412385,-40.69686499378994
4734,5407,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20](=[O:21])[O:22][CH3:23])[n+:24]1[CH3:25]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]1([C:13]([NH:12][CH3:11])=[O:14])[O:16][C:17](=[O:18])[C:19]2([C:20](=[O:21])[O:22][CH3:23])[N:24]1[CH3:25],water,298.15,31.151878028888703,2.834293508760485
1883,2088,[CH3:12][O:13][C:14](=[O:15])[C:16]([CH3:17])=[NH+:18][C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([O:13][CH3:12])=[O:15])([CH3:17])[NH:18][C:19]2([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,11.637940904452169,-18.02003898234375
3775,4325,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[C:7]#[N+:8][C-:9]([c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH2:1]1[CH2:2][C:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[N:8]=[C:7]1[C:5]([O:4][CH3:3])=[O:6],water,298.15,15.882879601700642,-43.733222392830974
2279,2526,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2.[N:12]#[C:13][C:14](=[O+:15][C-:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:14]([C:13]#[N:12])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[O:15][C:16]2([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,17.608469695280352,-16.670662102352836
4291,4908,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[C-:12]([C:13]#[N:14])[NH+:15]=[C:16]([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:12]([C:10]([CH3:9])=[O:11])([C:13]#[N:14])[NH:15][C:16]2([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,21.31569788866353,-5.609263981732602
3404,3871,[N:9]#[C:10][N-:11][N+:12]#[C:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[N:11]([C:10]#[N:9])[N:12]=[C:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,18.518540661735926,-38.12561135045253
1002,1092,[CH3:13][NH:14][C:15](=[O:16])[c:17]1[o:18][c:19](=[O:20])[c-:21]([C:22]#[N:23])[o+:24]1.[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:21]1([C:22]#[N:23])[C:19](=[O:20])[O:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[O:24]1,water,298.15,19.855584558717748,-22.406993520116263
4362,4983,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C:7]([C:8]([CH3:9])=[O:10])=[N+:11]([CH3:12])[C-:13]([C:14](=[O:15])[NH:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[CH2:2][C:13]([C:14](=[O:15])[NH:16][CH3:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:11]([CH3:12])[C:7]1([C:5]([NH:4][CH3:3])=[O:6])[C:8]([CH3:9])=[O:10],water,298.15,34.938477688800894,-24.823513367143512
1848,2050,[CH3:13][O:14][C:15](=[O:16])[C-:17]([N+:18]#[C:19][C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([O:14][CH3:13])=[O:16])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:18]=[C:19]3[C:20]([CH3:21])=[O:22],water,298.15,11.811480978506385,-52.3761877180301
